US09120749B2
(4-(6-(3-aminopyrrolidin-1-yl)pyridin-3-ylamino)-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinoline-4-ylamino)pyridin-2-yl)pyrrolidin-3-ylcarbamate (100 mg, 0.18 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (74 mg, 0.27 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (21 mg, 23% over 2 steps) as a yellow-brown solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.36 (s, 1H), 8.27 (dd, J=8.8, 1.9 Hz, 1H), 8.24 (d, J=2.7 Hz, 2H), 8.06 (d, J=8.8 Hz, 1H), 7.90 (dd, J=9.4, 2.6 Hz, 1H), 7.27 (m, 2H), 7.08 (d, J=9.4 Hz, 1H), 4.16 (p, J=6.2 Hz, 1H), 4.05 (dd, J=11.9, 6.5 Hz, 1H), 3.88 (dt, J=10.8, 7.5 Hz, 1H), 3.79 (dt, J=10.5, 3.3 Hz, 2H), 2.81 (p, J=6.0 Hz, 1H), 2.61 (dq, J=13.3, 6.6 Hz, 1H), 2.33 (td, J=13.4, 5.3 Hz, 1H), 1.20 (m, 4H); ESI MS m/z 518 [C28H25ClFN5O2+H]+; HPLC 99.4% (AUC), tR=10.02 min.

reactant | tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinoline-4-ylamino)pyridin-2-yl)pyrrolidin-3-ylcarbamate | 0.18 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O | C27H30BrN5O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.27 mmol, 74 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (4-(6-(3-aminopyrrolidin-1-yl)pyridin-3-ylamino)-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone | 21 mg, 23% | NC1CN(CC1)C1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)F)O)Cl)C(=O)C1CC1 | C28H25ClFN5O2
